US08470878B2
(R)-1-(2,3-bis(benzyloxy)propyl)cyclopropane-1-sulfonic acid
A mixture of (R)-isopropyl 1-(2,3-bis(benzyloxy)propyl)cyclopropane-1-sulfonate (460 g) and KSCN (170 g) in THF 2.2 L) and water (2.2 L) at 25° C. was refluxed for approximately 24 hours at 90° C. until HPLC analysis showed that the reaction had gone to completion. The reaction mixture was concentrated to about 2 L at 40° C. and extracted with MTBE (1.5 L (×3)). The organic layer was discarded and the aqueous layer was neutralized to pH 14 with KOH (30 g) in water (100 mL) and cooled to −5° C. The mixture was neutralized to a pH of between 2 and 3 with concentrated HCl (205 mL) and extracted with ETOAc (2 L (×2)). The combined organic layers was dried over Na2SO4 for approximately 16 hours, filtered and concentrated to dryness to give the product as a deep red oil (265 g).

reactant | (R)-isopropyl 1-(2,3-bis(benzyloxy)propyl)cyclopropane-1-sulfonate | 460 g | C(C1=CC=CC=C1)O[C@H](CC1(CC1)S(=O)(=O)OC(C)C)COCC1=CC=CC=C1 | C23H30O5S
reactant | KSCN | 170 g | C(#N)[S-].[K+]
reactant | water | 2.2 L | O | H2O
solvent | THF | 2.2 L | C1CCOC1 | C4H8O
product | (R)-1-(2,3-bis(benzyloxy)propyl)cyclopropane-1-sulfonic acid | 265 g | C(C1=CC=CC=C1)O[C@H](CC1(CC1)S(=O)(=O)O)COCC1=CC=CC=C1 | C20H24O5S
